US06225310B1
d) 3-Isopropylamino-7-methyl-4H-thieno[2,3-e]-1,2,4-thiadiazine 1,1-dioxide
A 20% solution of phosgene in toluene (715 μl) was added to a stirred and cooled solution of N-(2-amino-4-methyl-3-thienylsulfonyl)-N′-isopropylthiourea (0.22 g) and triethylamine (313 μl) in dry THF (5 ml) the temperature being kept below 5° C. After stirring for 1.5 h the mixture was evaporated and triturated with 10 ml of water. The precipitate was collected by filtration and dried to give 0.14 g of crude product. The crystals were heated at 70° C. with 5 ml of ethyl acetate and the resulting mixture was cooled to 0° C. for 10 min and then filtered. The filter cake was rinsed with a minute amount of ethyl acetate and dried to give 0.087 g (yield 45%) of the title compound as tan crystals; m.p. 152-154° C.; 1H-NMR (DMSO-d6): δ(ppm): 7.10 (br d, 1 H, NH), 6.61 (s, 1 H, N(4)H), 6.52 (s, 1 H, C(6)H), 3.89 (m, 1 H, CH), 2.32 (s, 3 H, CH3), 1.18 (d, 6 H, CH3).

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | N-(2-amino-4-methyl-3-thienylsulfonyl)-N′-isopropylthiourea | 0.22 g | NC=1SC=C(C1S(=O)(=O)NC(=S)NC(C)C)C | C9H15N3O2S3
reactant | triethylamine | 313 μl | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 715 μl | C1(=CC=CC=C1)C | C7H8
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-Isopropylamino-7-methyl-4H-thieno[2,3-e]-1,2,4-thiadiazine 1,1-dioxide | 0.087 g, yield 45% | C(C)(C)NC1=NS(C2=C(N1)SC=C2C)(=O)=O | C9H13N3O2S2
